US08486979B2
3-fluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzonitrile
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-cyano-5-fluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.65 (ddd, J=8.0, 5.1, 0.8 Hz, 1 H), 7.95 (ddd, J=8.1, 2.6, 1.6 Hz, 1 H), 8.32 (ddd, J=8.7, 2.6, 1.4 Hz, 1 H), 8.46 (t, J=1.4 Hz, 1 H), 8.58 (ddd, J=8.1, 2.0, 1.8 Hz, 1 H), 8.76 (dd, J=5.2, 1.6 Hz, 1 H), 9.31 (dd, J=2.0, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 267 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-cyano-5-fluorobenzoic acid | C(#N)C=1C=C(C(=O)O)C=C(C1)F | C8H4FNO2
reactant | NH3 | N | H3N
product | 3-fluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzonitrile | FC=1C=C(C#N)C=C(C1)C1=NC(=NO1)C=1C=NC=CC1 | C14H7FN4O
